US08703805B2
To a suspension of 3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenol (229 mg, 0.68 mmol) and K2CO3 (179 mg, 1.3 mmol) in acetonitrile (3.0 mL) was added methyl bromoacetate (85 μL, 0.90 mmol). The suspension was stirred at ambient temperature for 16 hours at which time HPLC analysis showed conversion to a product with a slightly longer retention time. The reaction suspension was filtered through a plug of Celite that was then washed thoroughly with EtOAc. The filtrate was concentrated to afford a pale yellow oil. This material was further purified by flash column chromatography eluting with a gradient from 0% to 28% EtOAc/hexane to afford methyl 2-(3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenoxy)acetate (158 mg, 57% yield) as an oil. MS(ES): 411 [M+H]+.

reactant | 3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenol | 0.68 mmol, 229 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=C(C=CC1)O)C(F)(F)F | C16H10ClF3N2O
reactant | K2CO3 | 1.3 mmol, 179 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 0.90 mmol, 85 μL | BrCC(=O)OC | C3H5BrO2
solvent | acetonitrile | 3.0 mL | C(C)#N | C2H3N
product | methyl 2-(3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenoxy)acetate | 158 mg, 57% yield | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=C(OCC(=O)OC)C=CC1)C(F)(F)F | C19H14ClF3N2O3
